US07585881B2
3-{3-[(3-pyridin-4-yl-6,7-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-8(5H)-yl)methyl]-1,2,4-oxadiazol-5-yl}benzonitrile
[5-(3-cyanophenyl)-1,2,4-oxadiazol-3-yl]methyl methanesulfonate (0.278 g; 0.99 mmol) and 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine (0.220 g; 1.09 mmol) were dissolved in butanone (20 ml) and potassium carbonate (0.275 g; 1.99 mmol) was added portionwise. The mixture was heated at reflux for 18 h before cooling to r.t. This mixture was concentrated in vacuo and DCM (20 ml) was added. The mixture was washed with water, dried (Na2SO4), evaporated and purified using prep. HPLC chromatography to give the title compound (5.4 mg). 1H NMR: 8.77 (m, 2H), 8.41 (s, 1H), 8.34 (d, 1H), 7.87 (d, 1H), 7.68 (t, 1H), 7.56 (m, 2H) 5.51 (s, 2H), 4.09 (m, 2H), 3.62 (m, 2H), 2.19 (m, 2H).

reactant | [5-(3-cyanophenyl)-1,2,4-oxadiazol-3-yl]methyl methanesulfonate | 0.99 mmol, 0.278 g | CS(=O)(=O)OCC1=NOC(=N1)C1=CC(=CC=C1)C#N | C11H9N3O4S
reactant | 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine | 1.09 mmol, 0.220 g | N1=CC=C(C=C1)C1=NN=C2N1CCCN2 | C10H11N5
reactant | potassium carbonate | 1.99 mmol, 0.275 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 20 ml | CC(CC)=O | C4H8O
product | 3-{3-[(3-pyridin-4-yl-6,7-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-8(5H)-yl)methyl]-1,2,4-oxadiazol-5-yl}benzonitrile | 5.4 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCN2CC2=NOC(=N2)C=2C=C(C#N)C=CC2 | C20H16N8O
